US05677305
6-Nitro-7-(3,5-dichloro-4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione
First, 1.129 g of 7-fluoro-6-nitro-1,4-dihydroquinoxaline-2,3-dione, 1.648 g of 3,5-dichloro-4-hydroxypyridine, and 672 mg of powdered potassium hydroxide were added to 10 ml of dry dimethylsulfoxide. The mixture was allowed to react at 130° C. for 3 hours in a nitrogen atmosphere. The subsequent processes were conducted in the same way as in Example 2. The resultant precipitate was dissolved by heating in dimethylformaldehyde and the solution was decolorized with activated carbon and filtered. Water in an equal amount was added thereto and the solution was allowed to stand overnight to give 1.473 g of crystals of 6-nitro-7-(3,5-dichloro-4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione.

reactant | 7-fluoro-6-nitro-1,4-dihydroquinoxaline-2,3-dione | 1.129 g | FC1=C(C=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-] | C8H4FN3O4
reactant | 3,5-dichloro-4-hydroxypyridine | 1.648 g | ClC=1C=NC=C(C1O)Cl | C5H3Cl2NO
reactant | potassium hydroxide | 672 mg | [OH-].[K+]
reactant | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethylformaldehyde | CC(=O)C | C3H6O
product | 6-Nitro-7-(3,5-dichloro-4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione | 1.473 g | [N+](=O)([O-])C=1C=C2NC(C(NC2=CC1N1C=C(C(C(=C1)Cl)=O)Cl)=O)=O | C13H6Cl2N4O5
